US04237136
5 g of 2-aminothiazole are dissolved in 50 ml of ethanol and 8.5 g of acetylene dicarboxylic acid diethyl ester are added to the resulting solution. The mixture increases in temperature and a solid substance begins to precipitate. After standing overnight, it is filtered off, washed with a little ethanol and dried. 7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester melting at 173° to 175° C. is thus obtained in a yield of 8.2 g (85.4% of the theoretical).

reactant | 2-aminothiazole | 5 g | NC=1SC=CN1 | C3H4N2S
reactant | acetylene dicarboxylic acid diethyl ester | 8.5 g | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(N=C2N1C=CS2)=O | C9H8N2O3S
